US06617351B1
Preparation of N-2-(4-(3-Thienyl)phenyl)propyl Acetamide
To a solution of 1.0 mL (0.088 mmol) of a 0.088 M solution of 2-(4-(3-thienyl)phenyl)propylamine in tetrahydrofuran was added 37 mg (0.132 mmol) of piperidinylmethyl polystyrene. To the mixture was added 10.4 mg (0.132 mmol) of acetyl chloride and the mixture was shaken for 6 hours. To this mixture was added 0.15 g (0.3 mmol) of aminomethyl polystyrene and the vessel was shaken for 12 hours. The reaction mixture was filtered through a cotton plug and concentrated to afford the title compound. The NMR spectrum was consistent is with the proposed title structure.

reactant | 2-(4-(3-thienyl)phenyl)propylamine | S1C=C(C=C1)C1=CC=C(C=C1)C(CN)C | C13H15NS
reactant | acetyl chloride | 0.132 mmol, 10.4 mg | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-2-(4-(3-Thienyl)phenyl)propyl Acetamide | S1C=C(C=C1)C1=CC=C(C=C1)C(CNC(C)=O)C | C15H17NOS
